US04863947
Alternatively, MDBA may be prepared by the carbomethoxylation of a ketone. For example, 4-chloracetophenone reacts with excess dimethylcarbonate using sodium methoxide as a catalyst to produce methyl 4-chlorobenzoylacetate as described in U.S. Pat. No. 3,950,381. NMR data was consistent with the structure.

reactant | MDBA | COC1=C(C=CC(=C1C(=O)O)Cl)Cl | C8H6Cl2O3
reactant | 4-chloracetophenone | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | dimethylcarbonate | COC(OC)=O | C3H6O3
catalyst | sodium methoxide | C[O-].[Na+]
product | methyl 4-chlorobenzoylacetate | ClC1=CC=C(C(=O)CC(=O)OC)C=C1 | C10H9ClO3
